US04861885
EXAMPLE 7: Preparation of allylbicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide
9.8 of allylbicyclo[2.2.1]hept-5-ene-2-carbonyl chloride are added dropwise over 10 minutes at 0° C. to 50 mol of 25% aqueous ammonia. The batch is stirred for 15 minutes at room temperature, and the water is decanted. The residue is dissolved in 50 ml of ether, washed with saturated soda solution and saturated sodium chloride solution, dried over sodium sulfate and concentrated, affording 6.5 g (73% of theory) of a white solid. For purification, the resultant solid is recrystallised from water; m.p.: 120°-122° C.

reactant | allylbicyclo[2.2.1]hept-5-ene-2-carbonyl chloride | C(C=C)C12C(CC(C=C1)C2)C(=O)Cl | C11H13ClO
reactant | ammonia | N | H3N
product | allylbicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | C(C=C)C12C(CC(C=C1)C2)C(=O)N | C11H15NO
